US07119088B2
2-amino-5-chloro-N-methylbenzamide
To a solution of 5-chloroisatoic anhydride (10.0 g, 51 mmol) in tetrahydrofuran (100 ml) at ambient temperature was added a 40% w/w aqueous solution of methylamine (19.80 g, 255 mmol) dropwise. The mixture was stirred at an ambient temperature for 1 hour. Ethyl acetate (100 ml) and water (100 ml) were added and the phases separated. The aqueous layer was back extracted with ethyl acetate (100 ml) and the combined organics were evaporated under reduced pressure to afford a white solid, which was recrystallised from toluene (60 ml) to afford the title compound as a white solid (8.15 g)

reactant | 5-chloroisatoic anhydride | 51 mmol, 10.0 g | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | methylamine | 255 mmol, 19.80 g | CN | CH5N
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-amino-5-chloro-N-methylbenzamide | 8.15 g | NC1=C(C(=O)NC)C=C(C=C1)Cl | C8H9ClN2O
